US09371320B2
F) tert-butyl 3,3-difluoro-4-(4-hydroxyphenyl)piperidine-1-carboxylate
A mixture of 4-(1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl)phenol (740 mg), di-tert-butyl dicarbonate (985 mg) and 10% palladium on carbon (360 mg) in methanol (15 mL) was stirred under hydrogen atmosphere at room temperature for 3 hr. The insoluble substance was removed by the filtration, and the filtrate was concentrated under reduced pressure. The resulting solid was washed with hexane to give the title compound (590 mg).

reactant | 4-(1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl)phenol | 740 mg | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC=C(C=C1)O)(F)F | C18H17F2NO
reactant | di-tert-butyl dicarbonate | 985 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 360 mg | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | tert-butyl 3,3-difluoro-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 590 mg | FC1(CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C)F | C16H21F2NO3
